US04540818
30.7 g (0.1 mol) of 3,3'-dinitro-4-chlorobenzophenone, 1.5 g of 5% Pd/C and 100 ml of ethanol were charged in a closed glass vessel equipped with a thermometer and a stirrer. While stirring the mixture at a temperature of 65° to 70° C., hydrogen was introduced thereto and 20.1 l (0.9 mol) of hydrogen was absorbed in 6 hours. Since no more absorption of hydrogen was observed, the reaction was terminated at this point. The reaction mixture was cooled to room temperature and filtered to obtain a black filter cake. This filter cake was dissolved in 100 ml of a 90% aqueous isopropyl alcohol solution with heating. The catalyst was removed by filtration with heating. The filtrate was cooled to precipitate 3,3'-diaminodiphenylmethane hydrochloride as a crystal. This crystal was recovered by filtration, washed with 10 ml of isopropanol and neutralized with dilute aqueous ammonia to precipitate a white crystal. The crystal was recovered by filtration and dried in vacuo to give 16.3 g (yield 82.2%) of 3,3'-diaminodiphenylmethane.

reactant | 3,3'-dinitro-4-chlorobenzophenone | 0.1 mol, 30.7 g | [N+](=O)([O-])C=1C=C(C(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1Cl | C13H7ClN2O5
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.9 mol, 20.1 l | [H][H] | H2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | 3,3'-diaminodiphenylmethane | 16.3 g, yield 82.2% | C1=CC(=CC(=C1)N)CC2=CC(=CC=C2)N | C13H14N2
